US07847100B2
A solution of N1,N1-dimethylbutane-1,4-diamine (0.64 g, 5.5 mmol) and propionaldehyde (0.38 mL, 5.2 mmol) in 20 mL methanol was stirred at rt overnight. Sodium borohydride (0.31 g, 8.3 mmol) was added and the reaction mixture was stirred for 20 min. The reaction was quenched with 1N NaOH, extracted with ether and washed with brine. Drying, solvent evaporation and flash chromatography (0-12% [10% NH4OH/MeOH]/CH2Cl2) gave N1,N1-dimethyl-N4-propylbutane-1,4-diamine. 1H NMR (CDCl3) δ 2.61 (t, J=6.7 Hz, 2H), 2.57 (t, J=7.2 Hz, 2H), 2.26 (t, J=7.0 Hz, 2H), 2.21 (s, 6H), 1.49 (m, 6H), 0.91 (t, J=7.4 Hz, 3H).

reactant | N1,N1-dimethylbutane-1,4-diamine | 5.5 mmol, 0.64 g | CN(CCCCN)C | C6H16N2
reactant | propionaldehyde | 5.2 mmol, 0.38 mL | C(CC)=O | C3H6O
reactant | Sodium borohydride | 8.3 mmol, 0.31 g | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | N1,N1-dimethyl-N4-propylbutane-1,4-diamine | CN(CCCCNCCC)C | C9H22N2
